*$
* TPS3700
*****************************************************************************
* (C) Copyright 2012,2015,2016 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS3700
* Date: 29JUN2016
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: TPS3700EVM-202 
* EVM User's Guide: SLVU950–August 2013
* Datasheet: SBVS187D-FEBRUARY 2012–REVISED JANUARY 2015
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
*< Made these change to the model >
*		Below features have been tweaked to match up with datasheet results
*		1. Isolated INA & INB input pins from input of comparator(IC) internally
*		2. VOL vs IOL (Figure 11 from datasheet) has implemented for TA = 25°C
*		3. OUTA & OUTB response during POR has been referred to TPS3701 & results matches
*
* Final 1.1
*< Made these change to the model >
*       Below features have been tweaked to match up with datasheet results
*		1. VIT+ with hysteresis = 5.5mV
*		2. Supply current vs Supply voltage
*		3. Minimum pulse width(us) vs Threshold overdrive(mV)
*		4. VOL vs Output sink current
*
* Final 1.0
* Release to Web
*
******************************************************************************
*
* Model Usage Notes:
*
* A. Features have been modelled
*	1. Model works according to datasheet for VDD = 1.8V to 18V
*	2. VIT+ & VIT- Thresholds for INA & INB along with Hysteresis
*	3. Start-up Delay, VDD UVLO & POR 
*	4. Supply Current vs Supply Voltage (Figure 2) for TA = 25 °C
*	5. Timing Requirements like t PHL  & t PLH 
*	6. Minimum Pulse Width vs Threshold Overdrive Voltage (Figure 7)
*	7. Low-Level Output Voltage vs Output Sink Current (Figure 11) for TA = 25°C 
*
* B. Features haven't been modelled
*	1. Start-up Delay doesn't match with datasheet(Figure 21& 22)
*	2. Temperature dependent characteristics
*	3. Output rise & fall time doesn't match with datasheet
*	4. Supply Current vs Output Sink Current (Figure 8) 
*
*****************************************************************************
.SUBCKT TPS3700_TRANS VDD INA INB OUTA OUTB GND
G_U4_G1         VDD GND TABLE { V(VDD, GND) } 
+ ( (0,0)(1,2.5u)(2,5.63u)(3,6u)(4,6.46u)(6,6.5u)(14,6.5u)(18,6.5u) )
R_Rgnd         0 GND  1m TC=0,0 
E_E1         INA_INT 0 INA 0 1
R_U3_R1         U3_N16444259 POR  10 TC=0,0 
X_U3_U6         U3_N16445235 U3_N16445367 d_d1 
X_U3_U3         VDD U3_N16445331 U3_N16445367 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
C_U3_C4         0 POR  1n  TC=0,0 
R_U3_R2         U3_N16446927 U3_N16445235  216 TC=0,0 
X_U3_U1         U3_N16444223 VDD U3_N16444259 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U3_U24         U3_VDD_RTH U3_VDD_FTH VDD_UVLO N16464039 srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_U3_V3         U3_N16445331 0 1.799V
V_U3_V1         U3_N16444223 0 0.8Vdc
C_U3_C1         U3_N16445235 0  1u  TC=0,0 
X_U3_U4         U3_N16445367 U3_N16446927 d_d1 
X_U3_U2         U3_N16444331 VDD U3_VDD_FTH COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U3_U5         U3_N16445235 U3_N16445409 U3_VDD_RTH COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_U3_V2         U3_N16444331 0 1.55V
V_U3_V4         U3_N16445409 0 0.5V
E_E2         INB_INT 0 INB 0 1
X_U1_H1    OUTA U1_N16828965 U1_ISENSE 0 CHANNEL_A_U1_H1 
X_U1_U5         U1_N16828971 0 U1_N16828948 0 RVAR PARAMS:  RREF=1
E_U1_ABM19         U1_N16828921 0 VALUE { {3E+06*V(U1_ISENSE)**3 -
+  118681*V(U1_ISENSE)**2 + 1650.7*V(U1_ISENSE) + 36.047}    }
X_U1_U95         POR U1_N16896881 U1_DRV1 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_U1_R4         U1_OVDRIVE_INA U1_N16826974  41.2 TC=0,0 
E_U1_ABM20         U1_N16828948 0 VALUE { IF( V(VDD) < 5 & V(VDD) > 1.79,
+  V(U1_N16828921), 32.035)    }
V_U1_VREF         U1_VREF 0 0.4V
X_U1_D1         U1_N16826974 U1_OVDRIVE_INA d_d1  
V_U1_VHYS         U1_N16812341 0 5.5mV
C_U1_C4         0 U1_N16826974  1u  TC=0,0 
X_U1_U92         INA_INT U1_VREF U1_N16812341 U1_INA_OUT_HYS COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM22         U1_N16897553 0 VALUE { IF(V(U1_N16826974) > 0.5, 1 ,0)    }
C_U1_U4_C12         U1_U4_TIMER_RAMP 0  1n IC=0 
C_U1_U4_C11         0 U1_U4_N16745058  1n IC=0 
R_U1_U4_R11         U1_U4_N16745136 U1_U4_N16745058  1  
X_U1_U4_S6    U1_INA_OUT_HYS 0 U1_U4_TIMER_RAMP 0 CH1_OD_CKT_U1_U4_S6 
E_U1_U4_ABM8         U1_U4_N16745136 0 VALUE { LIMIT(INA_TH - V(INA_INT),0,
+  65m)    }
X_U1_U4_D6         U1_U4_TIMER_RAMP U1_U4_N16745130 d_d1  
X_U1_U4_U26         U1_U4_TIMER_RAMP U1_OVDRIVE_INA INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_U1_U4_G4         U1_U4_N16745130 U1_U4_TIMER_RAMP TABLE { V(U1_U4_N16745058,
+  0) } 
+ ( (10m,41.5u)(18m,108u)(25m,175u)(40m,300u)(52m,460u)(60m,600u) )
V_U1_U4_V7         U1_U4_N16745130 0 1V
X_U1_S1    U1_DRV1 0 U1_N16828965 U1_N16828971 CHANNEL_A_U1_S1 
E_U1_ABM21         U1_N16896881 0 VALUE { IF( V(VDD_UVLO) > 0.5 &
+  V(U1_N16897553) > 0.5, 1, 0)    }
E_U2_ABM24         U2_N16857224 0 VALUE { IF(V(U2_N16837627) > 0.5, 1 ,0)    }
X_U2_U95         POR U2_N16849020 U2_DRV1 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U2_S1    U2_DRV1 0 U2_N16830733 U2_N16830735 CHANNEL_B_U2_S1 
X_U2_H1    OUTB U2_N16830733 U2_ISENSE 0 CHANNEL_B_U2_H1 
E_U2_ABM19         U2_N16830694 0 VALUE { {3E+06*V(U2_ISENSE)**3 -
+  118681*V(U2_ISENSE)**2 + 1650.7*V(U2_ISENSE) + 36.047}    }
X_U2_U5         U2_N16830735 0 U2_N16830715 0 RVAR PARAMS:  RREF=1
X_U2_U1_U26         U2_U1_TIMER_RAMP U2_OVDRIVE_INB INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U2_U1_C11         0 U2_U1_N16747468  1n  
X_U2_U1_D6         U2_U1_TIMER_RAMP U2_U1_N16747532 d_d1 
V_U2_U1_V1         U2_U1_N16747532 0 1V
R_U2_U1_R11         U2_U1_N16747538 U2_U1_N16747468  1  
G_U2_U1_G4         U2_U1_N16747532 U2_U1_TIMER_RAMP TABLE { V(U2_U1_N16747468,
+  0) } 
+ ( (10m,27.8u)(14m,38.2u)(30m,49.8u)(41.2m,58u)(52m,61u)(60m,63u) )
E_U2_U1_ABM8         U2_U1_N16747538 0 VALUE { LIMIT(V(INB_INT) - INB_TH,0,
+  65m)    }
C_U2_U1_C12         U2_U1_TIMER_RAMP 0  1n IC=0 
X_U2_U1_S6    U2_INB_OUT_HYS 0 U2_U1_TIMER_RAMP 0 CH2_OD_CKT_U2_U1_S6 
V_U2_VHYS         U2_N167783140 0 5.5mV
E_U2_ABM25         U2_N16849020 0 VALUE { IF( V(U2_N16857224) > 0.5, 1,
+  V(U2_N16857224))    }
X_U2_U92         U2_VREF INB_INT U2_N167783140 U2_INB_OUT_HYS COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_U2_R4         U2_OVDRIVE_INB U2_N16837627  41.2 TC=0,0 
V_U2_VREF         U2_VREF 0 394.5mV
X_U2_D1         U2_N16837627 U2_OVDRIVE_INB d_d1  
C_U2_C4         0 U2_N16837627  1u  TC=0,0 
E_U2_ABM20         U2_N16830715 0 VALUE { IF( V(VDD) < 5 & V(VDD) > 1.79,
+  V(U2_N16830694), 32.035)    }
.PARAM  inb_th=400m ina_th=394.5m vhys=5.5m
.ENDS TPS3700_TRANS
*$
.SUBCKT CHANNEL_A_U1_H1 1 2 3 4  
H_U1_H1         3 4 VH_U1_H1 1
VH_U1_H1         1 2 0V
.ENDS CHANNEL_A_U1_H1
*$
.SUBCKT CH1_OD_CKT_U1_U4_S6 1 2 3 4  
S_U1_U4_S6         3 4 1 2 _U1_U4_S6
RS_U1_U4_S6         1 2 1G
.MODEL         _U1_U4_S6 VSWITCH Roff=1G Ron=1 Voff=0.2 Von=0.8
.ENDS CH1_OD_CKT_U1_U4_S6
*$
.SUBCKT CHANNEL_A_U1_S1 1 2 3 4  
S_U1_S1         3 4 1 2 _U1_S1
RS_U1_S1         1 2 1G
.MODEL         _U1_S1 VSWITCH Roff=1.8E9 Ron=1m Voff=0.8V Von=0.2V
.ENDS CHANNEL_A_U1_S1
*$
.SUBCKT CHANNEL_B_U2_S1 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1.8E9 Ron=1m Voff=0.8V Von=0.2V
.ENDS CHANNEL_B_U2_S1
*$
.SUBCKT CHANNEL_B_U2_H1 1 2 3 4  
H_U2_H1         3 4 VH_U2_H1 1
VH_U2_H1         1 2 0V
.ENDS CHANNEL_B_U2_H1
*$
.SUBCKT CH2_OD_CKT_U2_U1_S6 1 2 3 4  
S_U2_U1_S6         3 4 1 2 _U2_U1_S6
RS_U2_U1_S6         1 2 1G
.MODEL         _U2_U1_S6 VSWITCH Roff=100E6 Ron=1 Voff=0.2 Von=0.8
.ENDS CH2_OD_CKT_U2_U1_S6
************************* Basic Components ****************************
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
E_ABM Yint 0 VALUE {IF (V(INP) > 
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1p
R_inp INP 0 1Meg
R_inm INM 0 1Meg
.ENDS COMP_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |  
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} , 
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT D_D1 1 2
D1 1 2 DD1
.MODEL DD1 D (IS=1e-015 TT=1e-011 RS=0.05 N=0.001)
.ENDS D_D1
*$
.SUBCKT RVAR 101 102 201 202 Params: Rref=1
* nodes : 101 102 : nodes between which variable resistance is placed
* 201 202 : nodes to whose voltage the resistance is proportional
* parameters : rref : reference value of the resistance
rin 201 202 1G; input resistance
r 301 0 {rref}
fcopy 0 301 vsense 1; copy output current thru Z
eout 101 106 poly(2) 201 202 301 0 0 0 0 0 1; multiply VoverZ with Vctrl
vsense 106 102 0; sense iout
.ENDS RVAR
*$
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1 D (IS=1e-15 TT=10p Rs=0.05 N=0.1)
.ENDS SRLATCHRHP_BASIC_GEN
*$

